US06989392B2
8-(4-(2-isoxazol-5-ylphenoxy)-1-methylbutoxy)quinolin-2-amine
The title compound was prepared according to the procedure described in Example 92 substituting 2-isoxazol-5-ylphenol for methyl 3-hydroxybenzoate. 1H NMR (500 MHz, CDCl3) δ ppm 8.20 (d, 1H), 7.92 (d, 1H), 7.86 (dd, 1H), 7.34 (m, 1H), 7.23 (t, 1H), 7.16 (dd, 1H), 7.05 (d, 1H), 6.97 (m, 3H), 6.68 (d, 1H), 4.71 (m, 1H), 4.26 (m, 1H), 4.15 (m, 1H), 1.98–2.26 (m, 4H), 1.48 (d, 3H); MS (DCI/NH3) m/z 390 [M+H]+.

reactant | 2-isoxazol-5-ylphenol | O1N=CC=C1C1=C(C=CC=C1)O | C9H7NO2
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | NH3 | N | H3N
product | 8-(4-(2-isoxazol-5-ylphenoxy)-1-methylbutoxy)quinolin-2-amine | O1N=CC=C1C1=C(OCCCC(OC=2C=CC=C3C=CC(=NC23)N)C)C=CC=C1 | C23H23N3O3
